US09035073B2
3-(3,4-difluorophenyl)-3-methoxypyrrolidine
Preparation according to preparation 15. Tert-butyl-3-(3,4-difluorophenyl)-3-methoxypyrrolidin-1-carboxylate (2.65 g, 8.46 mmol), dichloromethane (20 ml) and trifluoroacetic acid (5 ml). Purification on a Biotage Isolute SCX-3 SPE column (washed with methanol and eluted with methanol/triethylamine, 4:1) gave the title compound (1.15 g, 63%). The amine was converted to the oxalic acid salt and recrystallized from methanol/diethyl ether: M.p. 155-156° C. MS m/z (rel. intensity, 70 eV) 198 (46), 183 (79), 171 (bp), 141 (53), 113 (41).

reactant | Tert-butyl-3-(3,4-difluorophenyl)-3-methoxypyrrolidin-1-carboxylate | 8.46 mmol, 2.65 g | C(C)(C)(C)OC(=O)N1CC(CC1)(OC)C1=CC(=C(C=C1)F)F | C16H21F2NO3
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 3-(3,4-difluorophenyl)-3-methoxypyrrolidine | 1.15 g, 63% | FC=1C=C(C=CC1F)C1(CNCC1)OC | C11H13F2NO
